US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.51, 7.39, 7.12, 6.99, 5.45, 4.64, 2.90, 2.65, 2.51, 2.20, 1.99, 1.27, 1.20; 13C NMR (100 MHz, CDCl3) δ 151.51, 150.78, 140.47, 139.15, 137.82, 137.21, 135.35, 134.47, 132.93, 128.78, 127.51, 127.37, 123.01, 117.71, 46.74, 29.97, 27.62, 26.36, 25.53, 21.37,12.32, 11.63; HRMS (FAB) calcd for C22H23Cl2N3S+H 432.1068, found 432.1073.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=C1C=CS2)CC | C16H20BrN3S
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCCC2=C1C=CS2)CC | C22H23Cl2N3S
